US08304434B2
Step 4: tert-butyl 4-(1-methyl-1-{[6-(trifluoromethyl)pyridin-2-yl]sulfonyl}ethyl)piperidine-1-carboxylate
To a 50 ml round bottom flask was added tert-butyl 4-(1-{[6-(trifluoromethyl)pyridin-2-yl]sulfonyl}ethyl)piperidine-1-carboxylate (0.78 g, 1.85 mmol) and tetrahydrofuran (10 ml). The resulting solution was cooled with dry ice acetone bath. Sodium bis(trimethylsilyl)amide (NaHMDS) tetrahydrofuran solution (1M, 2.58 ml, 2.58 mmol) was added via a syringe. The resulting reaction solution was stirred at −78° C. for 10 minutes. MeI (0.173 ml, 2.77 mmol) was added. The reaction mixture was allowed to warm up to room temperature and quenched by addition of 50 ml saturated NH4Cl solution. It was diluted with 30 ml ether. The layers were separated, and the organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel column eluted with 1:4 to 1:2 ethyl acetate/hexane to give 0.806 g desired product (contains solvent).

reactant | tert-butyl 4-(1-{[6-(trifluoromethyl)pyridin-2-yl]sulfonyl}ethyl)piperidine-1-carboxylate | 1.85 mmol, 0.78 g | FC(C1=CC=CC(=N1)S(=O)(=O)C(C)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C18H25F3N2O4S
reactant | Sodium bis(trimethylsilyl)amide | 2.58 mmol, 1M, 2.58 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | MeI | 2.77 mmol, 0.173 ml | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(1-methyl-1-{[6-(trifluoromethyl)pyridin-2-yl]sulfonyl}ethyl)piperidine-1-carboxylate | 0.806 g | CC(C)(S(=O)(=O)C1=NC(=CC=C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27F3N2O4S
